US04080443
2-Chloro-6-(4-methoxyphenoxy)pyridine
A solution comprising 14.8 grams (0.1 mole) of 2,6-dichloropyridine, 12.4 grams (0.1 mole) of 4-methoxyphenol and 8.4 grams (0.15 mole) of flake potassium hydroxide in 100 milliliters of a 1:1 mixture of monoglyme and hexamethylphosphoramide was stirred for 24 hours at room temperature. The resulting mixture was diluted with water and thoroughly extracted with hexane. The extract was washed with water, dried and concentrated under reduced pressure. The residue was recrystallized from pentane giving 14.5 grams (64 percent of theoretical) of 2-chloro-6-(4-methoxyphenoxy)pyridine which melted at 63°-65° C.

reactant | 2,6-dichloropyridine | 0.1 mole, 14.8 grams | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
reactant | 4-methoxyphenol | 0.1 mole, 12.4 grams | COC1=CC=C(C=C1)O | C7H8O2
reactant | potassium hydroxide | 0.15 mole, 8.4 grams | [OH-].[K+]
reactant | monoglyme | C(OC)COC | C4H10O2
solvent | water | O | H2O
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2-Chloro-6-(4-methoxyphenoxy)pyridine | ClC1=NC(=CC=C1)OC1=CC=C(C=C1)OC | C12H10ClNO2
